US07700589B2
4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-2-[4-(4-acetyl-piperazin-1-yl)-piperidin-1-yl]-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide
Prepared analogously to Example 9i) from 400 mg (0.81 mmol) (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid and 230 mg (1.09 mmol) 1-(4-piperidin-4-yl-piperazin-1-yl)-ethanone.

reactant | (R)-3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 0.81 mmol, 400 mg | C(C)C=1C=C(C=CC1CC)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C28H36N4O4
reactant | 1-(4-piperidin-4-yl-piperazin-1-yl)-ethanone | 1.09 mmol, 230 mg | N1CCC(CC1)N1CCN(CC1)C(C)=O | C11H21N3O
product | 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylic acid-[(R)-2-[4-(4-acetyl-piperazin-1-yl)-piperidin-1-yl]-1-(3,4-diethyl-benzyl)-2-oxo-ethyl]-amide | C(C)(=O)N1CCN(CC1)C1CCN(CC1)C([C@@H](CC1=CC(=C(C=C1)CC)CC)NC(=O)N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O)=O | C39H55N7O4
